US04497651
22 parts of 3,6-dichloro-8-cyanoquinoline (prepared by a method similar to that in Example 8) in 80 parts of triethylamine and 80 parts of pyridine were heated at 40° C., and H2S gas was slowly passed in for 4 hours. Water was then added and the solid was filtered off with suction, washed with water and acetone and recrystallized from ethyl acetate. 17 parts of 3,6-dichloroquinoline-8-thiocarboxylic acid amide of melting point 226° C. were obtained. The yield corresponds to 66% of theory.

reactant | 3,6-dichloro-8-cyanoquinoline | ClC=1C=NC2=C(C=C(C=C2C1)Cl)C#N | C10H4Cl2N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | H2S | S | H2S
solvent | Water | O | H2O
product | 3,6-dichloroquinoline-8-thiocarboxylic acid amide | ClC=1C=NC2=C(C=C(C=C2C1)Cl)C(N)=S | C10H6Cl2N2S
